US06515011B2
n-Butyl-lithium (2.5 M solution in hexanes, 3.6 mL) was added to stirred solution of [(5-chloro-2-iodobenzyl)oxy](triisopropyl)silane (3.82 g, 9.0 mmol) in ether (18 mL) at −78° C. under nitrogen. After 10 min a solution of copper(I) bromide-dimethylsulfide complex (0.925 g, 4.5 mmol) in dimethylsulfide (36 mL) was added and the solution was warmed to −50° C. A solution of 4-acetoxy-2-azetidinone (0.291 g, 2.25 mmol) in THF (2 mL) was added and the solution was warmed to −30° C. After a further 1 h the reaction was poured into 10% ammonium chloride solution basicified with ammonium hydroxide and extracted into ether. The organic layer was dried (Na2SO4) and evaporated in vacuo to an oil which was purified by flash column chromatography on silica (eluting with 5% methylene chloride/0-50% ethyl acetate/hexanes gradient) to give 4-(4-chloro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)azetidin-2-one (0.712 g) as a heavy oil: 1H NMR (CDCl3, 400 MHz) δ 1.08 (d, J=6.4 Hz, 18H), 1.16 (septet, J=6.4 Hz, 3H), 2.78 (dd, J=2.6, 14.8 Hz, 1H), 3.45 (dq, J=14.8, 2.6 Hz, 1H), 4.72 (d, J=13.1 Hz, 1H), 4.78 (d, J=13.1 Hz, 1H), 4.94 (q, J=2.6 Hz, 1H), 6.06 (br s, 1H), 7.30 (dd, J=2.1, 8.4 Hz, 1H), 7.43 (m, 2H).

reactant | n-Butyl-lithium | 2.5 M, 3.6 mL | C(CCC)[Li]
reactant | [(5-chloro-2-iodobenzyl)oxy](triisopropyl)silane | 9.0 mmol, 3.82 g | ClC=1C=CC(=C(CO[Si](C(C)C)(C(C)C)C(C)C)C1)I | C16H26ClIOSi
reactant | 4-acetoxy-2-azetidinone | 2.25 mmol, 0.291 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ether | 18 mL | CCOCC | C4H10O
solvent | dimethylsulfide | 36 mL | CSC | C2H6S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(4-chloro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)azetidin-2-one | 0.712 g | ClC1=CC(=C(C=C1)C1CC(N1)=O)CO[Si](C(C)C)(C(C)C)C(C)C | C19H30ClNO2Si
